### PR TITLE
[Merged by Bors] - feat: Facts about the coherent topology

### PR DESCRIPTION
**Pull request by nick-kuhn**
We show several facts about effective epimorphic family and the coherent topology in precoherent categories.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 1]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+
+variable {C : Type _} [Category C] [Precoherent C]
+
+variable {X : C}
+/--
+For a precoherent category, any sieve that contains an `EffectiveEpiFamily` is a sieve of the
+coherent topology.
+Note: This is one direction of `Sieve_iff_hasEffectiveEpiFamily`, but is needed for the proof.
+-/
+theorem Sieve_of_hasEffectiveEpiFamily (S : Sieve X) :
```
Comment (urkud) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:97]: Should it be `GrothendieckTopology.mem_sieves_of_...`?

Comment (nick-kuhn) [reply Mathlib/CategoryTheory/Sites/Coherent.lean]: That makes sense, thanks. Renamed this and the other theorem to that extent.

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 2]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+theorem mem_sieves_of_hasEffectiveEpiFamily (S : Sieve X) :
+    (∃ (α : Type) (_ : Fintype α) (Y : α → C) (π : (a : α) → (Y a ⟶ X)),
+        EffectiveEpiFamily Y π ∧ (∀ a : α, (S.arrows) (π a)) ) →
+          (S ∈ GrothendieckTopology.sieves (coherentTopology C) X) := by
+  rintro ⟨α, ⟨h, ⟨Y, ⟨π, hπ⟩⟩⟩⟩
+  have h_le : Sieve.generate (Presieve.ofArrows _ π) ≤ S := by
+      rw [Sieve.sets_iff_generate (Presieve.ofArrows _ π) S]
+      apply Presieve.le_of_factorsThru_sieve (Presieve.ofArrows (fun i => Y i) π) S _
+      intro Y g f
+      use Y, 𝟙 Y
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:106]:
```suggestion
      rintro y g f
      use y, 𝟙 y
```
You have `Y` already and this made the code harder to read (for me at least)

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 3]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+      rcases f with ⟨i⟩
+      exact ⟨π i, ⟨hπ.2 i,Category.id_comp (π i) ⟩⟩
+  apply Coverage.saturate_of_superset (coherentCoverage C) h_le
+  exact Coverage.saturate.of X _ ⟨α, inferInstance, Y, π, ⟨rfl, hπ.1⟩⟩
+
+/-- Every Yoneda-presheaf is a sheaf for the coherent topology. -/
+theorem isSheaf_yoneda_obj (W : C) : Presieve.IsSheaf (coherentTopology C) (yoneda.obj W) := by
+  rw [isSheaf_coherent]
+  intro X α _ Y π H
+  have h_colim:= isColimitOfEffectiveEpiFamilyStruct Y π H.effectiveEpiFamily.some
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:116]:
```suggestion
  have h_colim := isColimitOfEffectiveEpiFamilyStruct Y π H.effectiveEpiFamily.some
```

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 4]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+  rw [←Sieve.generateFamily_eq] at h_colim
+  intro x hx
+  let x_ext := Presieve.FamilyOfElements.sieveExtend x
+  have hx_ext := Presieve.FamilyOfElements.Compatible.sieveExtend hx
+  let S := Sieve.generate (Presieve.ofArrows Y π)
+  have := (Sieve.forallYonedaIsSheaf_iff_colimit S).mpr ⟨h_colim⟩ W x_ext hx_ext
+  rcases this with ⟨t, t_amalg, t_uniq⟩
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:123]:
```suggestion
  obtain ⟨t, t_amalg, t_uniq⟩ : ∃! t, x_ext.IsAmalgamation t :=
    (Sieve.forallYonedaIsSheaf_iff_colimit S).mpr ⟨h_colim⟩ W x_ext hx_ext
```
Same thing but this is the preferred idiom I guess.

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 5]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+  use t
+  constructor
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:125]:
```suggestion
  refine ⟨t, ?_, ?_⟩
```

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 6]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+  · convert Presieve.isAmalgamation_restrict (Sieve.le_generate (Presieve.ofArrows Y π)) _ _ t_amalg
+    refine Eq.symm (Presieve.restrict_extend hx)
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:127]:
```suggestion
    exact (Presieve.restrict_extend hx).symm
```
No need to use refine if it's closing the goal, and dot notation makes things a bit more compact.

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 7]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+  · exact fun y hy => t_uniq y <| Presieve.isAmalgamation_sieveExtend x y hy
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:128]:
```suggestion
  · exact fun y hy ↦ t_uniq y <| Presieve.isAmalgamation_sieveExtend x y hy
```
I think we're trying to keep the ascii art out of mathlib...

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 8]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+    -- Need to show that the pullback of the family `π_n` to a given `Y i` is effective epimorphic
+    rcases hY with ⟨i⟩
+    use β i, inferInstance, Y_n i, π_n i
+    constructor
+    · exact H i
+    · intro b
+      use Y_n i b, (𝟙 _), π_n i b ≫ π i
+      constructor
+      · exact ⟨(⟨i, b⟩ : Σ (i : α), β i)⟩
+      · exact Category.id_comp (π_n i b ≫ π i)
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:184]:
```suggestion
    use β i, inferInstance, Y_n i, π_n i, H i 
    intro b
    use Y_n i b, (𝟙 _), π_n i b ≫ π i, ⟨(⟨i, b⟩ : Σ (i : α), β i)⟩
    exact Category.id_comp (π_n i b ≫ π i)
```
`use a,b` is just `refine \<a,b,?_\>` and `constructor is just `refine \<_,_,...,_\>`.

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 9]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+      constructor
+      · tauto
+      · intro a'
+        cases' h' with h_left h_right
+        simp only [Sieve.generate_apply]
+        use Y' a', 𝟙 Y' a', π a'
+        constructor
+        · rw [h_left]
+          exact Presieve.ofArrows.mk a'
+        · apply Category.id_comp
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:208]:
```suggestion
      use a, h, Y', π, by tauto
      intro a'
      rcases h' with ⟨rfl, _⟩
      simp only [Sieve.generate_apply]
      use Y' a', 𝟙 Y' a', π a', Presieve.ofArrows.mk a'
      apply Category.id_comp
```
The `rcases rfl` trick substitutes away `T` everywhere, so you don't have to `rw [h_left]` because it already happened. This way you never have more than one goal so you don't need any more indentation.

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 10]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+    · rcases a with ⟨α, w, Y₁, π, ⟨h₁,h₂⟩⟩
+      have H  := fun a => b (h₂ a)
+      rw [Classical.skolem] at H
+      rcases H with ⟨β, H⟩
+      rw [Classical.skolem] at H
+      rcases H with ⟨_, H⟩
+      rw [Classical.skolem] at H
+      rcases H with ⟨Y_n, H⟩
+      rw [Classical.skolem] at H
+      rcases H with ⟨π_n, H⟩
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:221]:
```suggestion
      choose β _ Y_n π_n H using fun a => b (h₂ a)
```

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 11]
```diff
@@ -82,4 +83,148 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+      use (Σ a, β a), inferInstance, fun ⟨a,b⟩ => Y_n a b, fun ⟨a, b⟩ => (π_n a b) ≫ (π a)
+      constructor
+      · apply EffectiveEpiFamily.transitive_of_finite
+        · exact h₁
+        · exact fun a => (H a).1
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:226]:
```suggestion
      · exact EffectiveEpiFamily.transitive_of_finite _ h₁ _ (fun a => (H a).1)
```
My instinct is just to do it on one line if it's < 100 characters.

**Review by kbuzzard — APPROVED** [review]
Thanks a lot for the PR! I made some stylistic (golfy) comments.

File: Mathlib/CategoryTheory/Sites/Coherent.lean (hunk 2 above)
Comment (nick-kuhn) [reply Mathlib/CategoryTheory/Sites/Coherent.lean:106]: Good point, I'll rename it `W` though to keep with using capital end-of-alphabet letters for objects of C.

File: Mathlib/CategoryTheory/Sites/Coherent.lean (hunk 7 above)
Comment (nick-kuhn) [reply Mathlib/CategoryTheory/Sites/Coherent.lean:127]: Thanks!

File: Mathlib/CategoryTheory/Sites/Coherent.lean (hunk 10 above)
Comment (nick-kuhn) [reply Mathlib/CategoryTheory/Sites/Coherent.lean:215]: Thanks! That one's very useful to know..

File: Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean [hunk 12]
```diff
@@ -298,6 +298,15 @@ attribute [nolint simpNF]
   EffectiveEpiFamily.fac
   EffectiveEpiFamily.fac_assoc
 
+/-- The effective epi family structure on the identity -/
+def effectiveEpiFamilyStructId : EffectiveEpiFamilyStruct (α : Unit → C) (fun _ => 𝟙 (α ())) where
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean:302]: This has strange formulation: is there a reason to write `(α : Unit → C)` instead of `(c : :C)`?

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 13]
```diff
@@ -82,4 +83,128 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+    -- Need to show that the pullback of the family `π_n` to a given `Y i` is effective epimorphic
+    rcases hY with ⟨i⟩
+    use β i, inferInstance, Y_n i, π_n i, H i
+    intro b
+    use Y_n i b, (𝟙 _), π_n i b ≫ π i, ⟨(⟨i, b⟩ : Σ (i : α), β i)⟩
+    exact Category.id_comp (π_n i b ≫ π i)
+
+/--
+A sieve belongs to the coherent topology if and only if it contains a finite
+`EffectiveEpiFamily`
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:183]:
```suggestion
A sieve belongs to the coherent topology if and only if it contains a finite
`EffectiveEpiFamily`.
```

File: Mathlib/CategoryTheory/Sites/Coherent.lean [hunk 14]
```diff
@@ -82,4 +83,128 @@ lemma isSheaf_coherent [Precoherent C] (P : Cᵒᵖ ⥤ Type w) :
...
+
+variable {C : Type _} [Category C] [Precoherent C]
+
+variable {X : C}
+
+/--
+Effective epi families in a precoherent category are transitive, in the sense that an
+`EffectiveEpiFamily` and an `EffectiveEpiFamily` over each member, the composition is an
+`EffectiveEpiFamily`.
+Note: The finiteness condition is an artifact of the proof and is probably unneccessary
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/Coherent.lean:143]:
```suggestion
Note: The finiteness condition is an artifact of the proof and is probably unnecessary.
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean (hunk 12 above)
Comment (riccardobrasca) [reply Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean:302]: Ops, yes I meant `(c : C)`. I understand that at some point you need to turn an element of `C` to a morphism from `Unit`. I am just wondering if one someone will use your `def` they'll already have the morphism or rather the element. It's just to make this definition more comfortable to use.

Comment (nick-kuhn) [reply Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean:302]: I thought a bit about it and I think one would need to introduce a bit more API to generalize this (such as `EffectiveEpiFamilies` being invariant under composing by bijections of the indexing set).

Comment (nick-kuhn) [reply Mathlib/CategoryTheory/Sites/EffectiveEpimorphic.lean:302]: Í'll leave it as is for now.
